US07534797B2
cis-3-(Toluene-4-sulfonyloxy)-cyclobutanecarboxylic acid methyl ester
An ice bath cooled methylene chloride (80.0 mL) solution of cis-3-hydroxy-cyclobutanecarboxylic acid methyl ester (4.00 g, 31.0 mmol; predominantly cis) was charged with pyridine (3.00 mL, 37.0 mmol) and Ts2O (11.1 g, 34.0 mmol). After 45 min, TLC analysis (EtOAc) revealed no starting material (KMnO4 stain for alcohol sm). The reaction mixture was concentrated in vacuo, resuspended in ether (50.0 mL) and washed with 0.5 N HCl (2×25 mL), saturated bicarbonate (2×25 mL), water (2×25 mL), brine (1×25 mL), and then dried over Na2SO4, filtered and concentrated to yield the title compound as colorless oil, predominantly cis. 1H NMR (400 MHz, CDCl3): δ=2.44-2.55 (m, 7H), 2.56-2.65 (m, 1H), 3.65 (s, 3H), 4.59-4.77 (m, 1H), 7.33 (d, 2H, J=8.0 Hz), 7.77 (d, 2H, J=8.0 Hz).

reactant | cis-3-hydroxy-cyclobutanecarboxylic acid methyl ester | COC(=O)[C@@H]1C[C@@H](C1)O | C6H10O3
reactant | pyridine | 37.0 mmol, 3.00 mL | N1=CC=CC=C1 | C5H5N
reactant | Ts2O | 34.0 mmol, 11.1 g | O(S(=O)(=O)C1=CC=C(C)C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C14H14O5S2
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | 80.0 mL | C(Cl)Cl | CH2Cl2
product | cis-3-(Toluene-4-sulfonyloxy)-cyclobutanecarboxylic acid methyl ester | COC(=O)[C@@H]1C[C@@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C | C13H16O5S
